US05733882
b) Boc-valinethioamide
Boc-valineamide (0.5 g) was stirred in dry THF at room temperature under argon. Lawesson's reagent (1.56 g, 0.6 eq) was added and the mixture was stirred overnight. The solvent was evaporated and the residue chromatographed (silica, 2.5% methanol/dichloromethane) to give the title compound as a white solid (0.373 g, 70%). NMR(CDCl3) δ 8.59 (1H, br s), 8.09 (1H, br s), 5.41 (1H, d (br)), 4.20 (1H, dd), 1.99 (1H, m), 1.39 (9H, s), 0.90 (6H, m).

reactant | Boc-valineamide | 0.5 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)N | C10H20N2O3
reactant | Lawesson's reagent | 1.56 g, 0.6 eq | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | C1CCOC1 | C4H8O
product | Boc-valinethioamide | 0.373 g, 70% | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(N)=S | C10H20N2O2S
